US04943666
4-Bromo-2-isopropyl-6-nitrophenol (63.1 g) was dissolved in methanol (442 ml) and to the solution was added 5% Pd-C (11.0 g, water content: 50%). The mixture was subjected to catalytic reduction for 2.5 hours with bubbling hydrogen at hydrogen pressure of 1 to 2 kg/cm2 with maintaining the external temperature at about 25° C. After completion of the reaction, Pd-C was filtered off and the filtrate was concentrated under reduced pressure at an external temperature of not more than 70° C. Then, the residue was washed with ethyl acetate (200 ml) and dried to obtain 2-amino-6-isopropylphenol hydrobromide (23.0 g, 40.8%). The product was recrystallized from methanoldiethyl ether to obtain colorless plates, m.p. 210°-213° C. (decomp.).

reactant | 4-Bromo-2-isopropyl-6-nitrophenol | 63.1 g | BrC1=CC(=C(C(=C1)[N+](=O)[O-])O)C(C)C | C9H10BrNO3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 442 ml | CO | CH4O
catalyst | Pd-C | 11.0 g | [Pd] | Pd
product | 2-amino-6-isopropylphenol hydrobromide | 23.0 g, 40.8% | Br.NC1=C(C(=CC=C1)C(C)C)O | InChI=1S/C9H13NO.BrH/c1-6(2)7-4-3-5-8(10)9(7)11;/h3-6,11H,10H2,1-2H3;1H
